US05559113
4-{[2-(1H-Imidazol-4-yl)ethyl]amino}-2-chloropyridine
38 mg (0.34 mmol) of histamine and 55 mg (0.31 mmol) of 2-chloro-4-nitropyridine N-oxide in 15 ml of 2-propanol are stirred with potassium bicarbonate at 21° C. for 3 days. The mixture is then filtered and evaporated. The resulting solid residue is chromatographed on a column of silica gel, using a chloroform/methanol (10/1) mixture. The pure fractions are evaporated under reduced pressure to give the title compound which, after crystallization from a 2-propanol/ether (1/1) mixture, melts at 164°-165° C.

reactant | histamine | 0.34 mmol, 38 mg | NCCC1=CNC=N1 | C5H9N3
reactant | 2-chloro-4-nitropyridine N-oxide | 0.31 mmol, 55 mg | ClC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C5H3ClN2O3
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | 2-propanol | 15 ml | CC(C)O | C3H8O
product | 4-{[2-(1H-Imidazol-4-yl)ethyl]amino}-2-chloropyridine | N1C=NC(=C1)CCNC1=CC(=NC=C1)Cl | C10H11ClN4
